US06921763B2
rac-1-[3-(4-Amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)tetrahydro-1H-1-pyrrolyl]-2-(dimethylamino)-1-ethanone was prepared from rac-1-[3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)tetrahydro-1H-1-pyrrolyl]-2-(dimethylamino)-1-ethanone (0.278 g, 0.669 mmol) and N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine (0.305 g, 0.837 mmol) in a manner similar to that used for the preparation of cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine. The compound was formed as a white powder (0.219 g, 62%). 1H NMR (DMSO-d6, 400 MHz) 2.17 (s, 3H), 2.23 (s, 3H), 2.3-2.50 (m, 4H), 2.34 (s, 3H), 2.40 (s, 3H), 2.99-4.26 (m, 4H), 5.44-5.49 (m, 1H), 6.80 (s, 1H), 7.11 (s, 1H), 7.65 (d, 2H), 7.92 (d, 2H), 8.26 (s, 1H), 10.86 (s, 1H); RP-HPLC Rt 10.765 min, 96% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 526 (MH+).

reactant | rac-1-[3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)tetrahydro-1H-1-pyrrolyl]-2-(dimethylamino)-1-ethanone | 0.669 mmol, 0.278 g | NC1=C2C(=NC=N1)N(N=C2I)C2CN(CC2)C(CN(C)C)=O | C13H18IN7O
reactant | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine | 0.837 mmol, 0.305 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2C)C)C | C21H25BN2O3
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=CC=C1)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32FN9O
product | rac-1-[3-(4-Amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)tetrahydro-1H-1-pyrrolyl]-2-(dimethylamino)-1-ethanone | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CN(CC1)C(CN(C)C)=O | C28H31N9O2
